US06613743B2
A mixture of (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate (200 mg, 0.474 mmol), 3-nitrophenylsulphonyl chloride (105 mg, 0.474 mmol), diisoproylethylamine (0.084 mL, 0.474 mmol) and dimethylaminopyridine (˜1 mg) in anhydrous tetrahydrofuran (3 mL) was stirred at ambient temperature over 16 hours under an Argon atmosphere. The reaction was evaporated in vacuo and the residue was partitioned between dichloromethane and aqueous hydrochloric acid (1N). After separating the phases, the aqueous layer was extracted with dichloromethane. The combined organic phases were dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was purified on flash grade silica gel eluting with 1:1 ethyl acetate : hexane. Fractions containing the product were combined, evaporated in vacuo and dried under high vacuum to provide (3R,3aS,6aR)hexahydrofuro [2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-{(1-ethylpropoxy)[(3-nitrophenyl)sulfonyl]amino}-2-hydroxypropylcarbamate (246 mg, 86%). H1-NMR (chloroform-D3): 0.98 (m, 6H), 1.68 (m, 7H), 2.99 (m, 5H), 3.73 (m, 2H), 3.96 (m, 4H), 4.27 (m, 1H), 4.86 (d, 1H), 5.07 (m, 1H), 5.69 (d, 1H), 7.27 (m, 5H), 7.84 (m, 1H), 8.16 (d, 1H), 8.57 (d, 1H), 8.76 (s, 1H). MS (ESI): 630(M+Na).

reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate | 0.474 mmol, 200 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNOC(CC)CC)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C22H34N2O6
reactant | 3-nitrophenylsulphonyl chloride | 0.474 mmol, 105 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | diisoproylethylamine | 0.474 mmol, 0.084 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | dimethylaminopyridine | ˜1 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (3R,3aS,6aR)hexahydrofuro [2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-{(1-ethylpropoxy)[(3-nitrophenyl)sulfonyl]amino}-2-hydroxypropylcarbamate | 246 mg, 86% | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])OC(CC)CC)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C28H37N3O10S
